US08492378B2
dimethyl[4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenyl]phosphonate
A solution of 4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenyl trifluoromethanesulfonate (391 mg, 0.900 mmol), dimethyl phosphite (0.165 mL, 1.80 mmol), tetrakis(triphenylphosphine)palladium(0) (104 mg, 0.0900 mmol) and N,N-diisopropylethylamine (0.314 mL, 1.80 mmol) in toluene (5 mL) was stirred at 100° C. for 2 hr under an argon atmosphere. After cooling, the reaction mixture was diluted with ethyl acetate, washed with 1M hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate) and recrystallized from hexane/ethyl acetate to give the title compound (190 mg, yield 55%) as colorless crystals.

reactant | 4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenyl trifluoromethanesulfonate | 0.900 mmol, 391 mg | FC(S(=O)(=O)OC1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)C)(F)F | C18H11F3N2O5S
reactant | dimethyl phosphite | 1.80 mmol, 0.165 mL | P(OC)(OC)[O-]
reactant | N,N-diisopropylethylamine | 1.80 mmol, 0.314 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0900 mmol, 104 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | dimethyl[4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenyl]phosphonate | 190 mg, yield 55% | COP(OC)(=O)C1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)C | C19H17N2O5P
